US06025506
(1S,2R)-1-(Diethylamino)-2-indanol
A suspension of 15.09 grams (101 mmol) of (1S,2R)-1-amino-2-indanol, 33.72 grams (244 mmol) of potassium carbonate and 38.8 grams (249 mmol) of ethyl iodide in 100 ml of acetonitrile was refluxed for 3 hours. After cooling, the solid matter was removed through filtration and the filtrate was evaporated. The residue was dissolved in 4N hydrochloric acid and was washed three times using dichloromethane. The water layer was made basic with the aid of a 50% sodium hydroxide solution and was extracted with the aid of dichloromethane (3*25 ml). After drying (Na2SO4) and evaporation, the product was isolated as an oil. This oil was dissolved in diethyl ether and cooled, which caused the product to crystallise. Yield: 16.7 grams (81%) of a white solid substance. Melting point: 60-61° C. [α]20D +1.1 (c=1, methanol). 1H NMR (200 MHz, CDCl3): 1.02 (t, 6H), 2.24-2.57 (2*m, 4H), 2.65 (dd, 1H), 3.20 (dd, 1H), 4.22 (d, 1H), 4.29 (q, 1H), 4.7 (br s, 1H) and 7.10-7.27 (m, 4H). 13C NMR (50.31 MHz, CDCl3): 13.63 (q), 41.42 (t), 45.60 (t) 66.97 (d), 68.95 (d), 125.44 (d), 126.17 (d), 126.45 (d), 128.28 (d), 139.65(s) and 141.98 (s).

reactant | (1S,2R)-1-amino-2-indanol | 101 mmol, 15.09 grams | N[C@@H]1[C@@H](CC2=CC=CC=C12)O | C9H11NO
reactant | potassium carbonate | 244 mmol, 33.72 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 249 mmol, 38.8 grams | C(C)I | C2H5I
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1S,2R)-1-(Diethylamino)-2-indanol | C(C)N([C@@H]1[C@@H](CC2=CC=CC=C12)O)CC | C13H19NO
